US05225442
N-[2-(7-Methoxynaphth-1-Yl)Ethyl]Formamide
0.01 mol of 2-(7-methoxynaphth-1-yl)ethylamine and 0.02 mol of formic acid are placed in a porcelain crucible, and heated at 120° C. until a dry residue is obtained. This is recrystallized.

reactant | 2-(7-methoxynaphth-1-yl)ethylamine | 0.01 mol | COC1=CC=C2C=CC=C(C2=C1)CCN | C13H15NO
reactant | formic acid | 0.02 mol | C(=O)O | CH2O2
product | N-[2-(7-Methoxynaphth-1-Yl)Ethyl]Formamide | COC1=CC=C2C=CC=C(C2=C1)CCNC=O | C14H15NO2
